Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
penicillin V
 
Attending: ___.
 
Chief Complaint:
Lightheadedness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with ___ disease who presents with lightheadedness 
for the past several months and was found to be orthostatic in 
the ED. 

She describes a sensation of feeling faint when standing from a 
seated position or when standing for prolonged periods. The 
feeling quickly improves, and is noted to be better if she takes 
her time when standing up from a seated position. No dizziness, 
blurry or double vision, diaphoresis, nausea, or vomiting. She 
has been experiencing this sensation for several months, though 
it has not been progressive over this time period. 

Ms. ___ has a history of ___ Disease since early 
___, for which she is seen by Dr. ___, last visit 
___. Multiple medications have been tried in the treatment 
of her PD, but due to perceived side effects (unable to 
describe) and reluctance to take medications, she took her 
medications only when she felt like she needed to. Most recent 
rx for sinemet, which she takes on occasion. She has had 
progression of her symptoms, including resting tremor, 
asymmetric rigidity (L>R), constipation, mild hypomimia and 
hypophonia.

In the ED, initial VS were 96.6 96 115/80 16 100% RA.  
Labs showed  Hg 12.3, WBC 4.4 and negative UA. 
Imaging showed CXR without evidence of pneumonia and CT head 
without intracranial process. 

Noted to be frankly orthostatic with a drop in her systolics 
greater than 30. Remained hypotensive and tachycardic (to 120s) 
after 2 L, so admitted to obs for gently IVF overnight, but 
remained orthostatic in AM. Steady on her feet with normal 
neuro/cerebellar exam.  

Transfer VS were 98.1 85 132/75 18 100% RA 

Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports feeling well, does not 
feel light-headed when resting in bed. She reports feeling 
lightheaded when standing from a seated position or when 
standing for prolonged periods. No prodrome. On further 
discussion, she reports chest tightness "under her bra strap." 
Tightness is non-exertional, does not radiate, and was worked up 
last week with a stress test and serial enzymes (negative). 

She endorses constipation (last BM 2 days ago, a chronic issue 
for patient), and periods of "hot flashes" and increased 
perspiration (not related to lightheaded sensation). No change 
in urination, incontinence, difficulty swallowing, or 
palpitations. 

 
Past Medical History:
Syphilis 
Anemia 
Depressive disorder 
___ disease 
Hypercholesterolemia
 
Social History:
___
Family History:
Father  ___ 
Mother  B12 deficiency 
Sister  ___ 
Grandson with childhood cancer (died age ___ 
Sister with ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM
==============================
VS 98.3 105 / 60 84 18 100 RA 
GENERAL: AAOx3, NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact; resting pill-rolling tremor of upper 
extremities, improves with intention. Increase rigidity of upper 
extremities noted (L>R). No postural instability.   
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM
==============================
VS -98.0 117 / 71 70 18 100 RA   
General: well appearing, NAD  
HEENT: MMM, EOMI  
Neck: no JVD, no LAD  
CV: rrr, no m/r/g  
Lungs: CTAB, breathing comfortably  
Abdomen: soft, nontender, nondistended  
GU: deferred  
Ext: warm and well perfused, pulses, no edema  
Neuro: resting pill-rolling tremor of upper extremities, 
improves with intention. Increase rigidity of upper extremities 
noted (L>R). No postural instability
 
Pertinent Results:
ADMISSION LABS
======================
___ 02:45PM BLOOD WBC-4.4 RBC-4.24 Hgb-12.3 Hct-38.2 MCV-90 
MCH-29.0 MCHC-32.2 RDW-13.6 RDWSD-44.3 Plt ___
___ 02:45PM BLOOD Neuts-70.0 ___ Monos-9.8 Eos-0.5* 
Baso-0.2 Im ___ AbsNeut-3.09 AbsLymp-0.84* AbsMono-0.43 
AbsEos-0.02* AbsBaso-0.01
___ 02:45PM BLOOD ___ PTT-34.4 ___
___ 02:45PM BLOOD Glucose-93 UreaN-16 Creat-0.9 Na-140 
K-4.3 Cl-102 HCO3-33* AnGap-9

MICRO
======================
None

STUDIES
======================
___ 
No acute intracranial process.

___ 
No pneumonia.

DISCHARGE LABS
======================
___ 07:20AM BLOOD WBC-3.6* RBC-4.18 Hgb-12.1 Hct-37.8 
MCV-90 MCH-28.9 MCHC-32.0 RDW-13.9 RDWSD-45.3 Plt ___
___ 07:20AM BLOOD Glucose-82 UreaN-11 Creat-0.8 Na-142 
K-3.7 Cl-102 HCO3-29 AnGap-___ with ___ disease who presents with lightheadedness 
for the past several months and was found to be orthostatic in 
the ED. Orthostatic hypotension did not improve with fluids, and 
was thought to be related to progression of autonomic 
dysfunction in the setting of ___ Disease.

ACTIVE ISSUES
=======================
# Orthostatic hypotension ___ Autonomic dysfunction
History of ___ disease, not on any medication. Other 
symptoms concerning for autonomic dysfunction (constipation, 
perspiration/hot flashes). While orthostatic hypotension can be 
explained by volume depletion, her symptoms were unresponsive to 
IVF and she was euvolemic on exam. No culprit medications on her 
list. Some component of aging may be contributing to postural 
hypotension. No CP or signs of ischemia on EKG. No sign of 
infection -- afebrile, clear CXR, no urinary symptoms. B12 
deficiency and neurosyphilis considered, given history, but 
syphilis was treated. B12 level pending at the time of 
discharge. ___ evaluated patient and recommended home ___. 
Encouraged compression stockings and slowly rising from seated 
position. 

CHRONIC ISSUES
=======================
#Depression
Mother and grandson died recently, and had difficulty coping. 
She feels like she is doing well now, and does not endorse 
ongoing depression. 

#Hypercholesterolemia
By patient report; Not on medication. Most recent lipid panel 
(TC 219, HDL 48, LDL 142, TRIG 147 -- ___. ASCVD score of 
6%, indicating moderate-intensity statin may have clinical 
benefit in reducing cardiac risk. 

#Anemia
Hx of anemia, previously on iron supplementation, mom with hx of 
B12 deficiency. B12 and iron studies pending at the time of 
discharge. 

TRANSITIONAL ISSUES
=======================
#Hyperlipidemia - Most recent lipid panel (TC 219, HDL 48, LDL 
142, TRIG 147 -- ___. ASCVD score of 6%, indicating 
moderate-intensity statin may have clinical benefit in reducing 
cardiac risk. Consider initiating therapy as outpatient. 
#If ongoing orthostatic hypotension, can try midodrine or 
fludrocortisone. These medications were not trialed as an 
inpatient, as she was asymptomatic at the time of discharge, and 
was reluctant to add additional medications to her list. 
___ progression - has not been taking sinemet (nor 
previous medications trialed by outpt neurologist). Autonomic 
dysfunction may not be improved with centrally acting 
___ medications, and patient may benefit from getting 
established in an ___ clinic. 
 
#CODE: Full (confirmed)  
#EMERGENCY CONTACT HCP: Daughters ___ (___), ___ 
(___)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Carbidopa-Levodopa (___) 0.5 TAB PO TID 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Carbidopa-Levodopa (___) 0.5 TAB PO TID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Primary Diagnosis: ___ disease with autonomic 
dysfunction 
 
Secondary Diagnoses: Depression, Hyperlipidemia, Anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ 
because you were experiencing lightheadedness. Your care team 
believes that this lightheadedness is related to your diagnosis 
of ___ Disease. ___ effects your body in many 
ways, one of which limits your blood vessels from working as 
they should. Blood collects in your legs when you are seated or 
laying down, and if you get up too quickly, the blood stays in 
your legs and doesn't make it to your head (so you feel 
lightheaded). The best thing you can do is take your time when 
standing from a seated position. It will also help if you wear 
compression stockings during the day (to help the blood leave 
your legs).

We also discussed the importance of taking your ___ 
medication exactly as prescribed by your neurologist -- you will 
only see the benefit of the medicine if you take it 3 times per 
day, every day. 

It was a pleasure caring for you!
Your ___ care team
 
Followup Instructions:
___